US05409956
Preparation of 5-acetyl-2-[(4-chlorophenyl)sulfonylaminomethyl]indan:
369 mg (1.15 mmol) of 2-[(4-chlorophenyl)sulfonylaminomethyl)indan was dissolved in 5 ml of methylene chloride, to which were added 460 mg (4.20 mmol) of anhydrous aluminum chloride under ice-cooling and then 302 mg (3.80 mmol) of acetyl chloride dropwise. After stirring for 30 minutes at the same temperature, the reaction solution was admixed with ice, and the organic phase was washed with water and saturated-aqueous sodium bicarbonate, dried and the solvent was removed. The residue was recrystallized from a solvent mixture of ethyl acetate and isopropylether to obtain 310 mg of colorless crystals. Yield: 75%

reactant | 2-[(4-chlorophenyl)sulfonylaminomethyl)indan | 1.15 mmol, 369 mg | ClC1=CC=C(C=C1)S(=O)(=O)NCC1CC2=CC=CC=C2C1 | C16H16ClNO2S
reactant | aluminum chloride | 4.20 mmol, 460 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetyl chloride | 3.80 mmol, 302 mg | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 5-acetyl-2-[(4-chlorophenyl)sulfonylaminomethyl]indan | 310 mg, Yield: 75% | C(C)(=O)C=1C=C2CC(CC2=CC1)CNS(=O)(=O)C1=CC=C(C=C1)Cl | C18H18ClNO3S
